US07230031B2
Dibenzyl[7-(4-benzyloxy-3-isopropenyl-2-methoxyphenoxy)-6-methylindan-4-yl]amine
2-[6-Benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-methoxyphenyl]-propane-2-ol (13.9 g) was dissolved in dichloromethane (100 mL). Adding concentrated hydrochloric acid (40 mL), the mixture was stirred for 20 min vigorously. The organic layer was separated, and the water layer was extracted with dichloromethane. The combined organic layers were washed with a 2 mol/L aqueous solution of sodium hydroxide and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1−3/1) to give the title compound (7.97 g).

reactant | 2-[6-Benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-methoxyphenyl]-propane-2-ol | 13.9 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)(C)O)OC)OC1=C2CCCC2=C(C=C1C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C41H43NO4
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Dibenzyl[7-(4-benzyloxy-3-isopropenyl-2-methoxyphenoxy)-6-methylindan-4-yl]amine | 7.97 g | C(C1=CC=CC=C1)N(C1=C2CCCC2=C(C(=C1)C)OC1=C(C(=C(C=C1)OCC1=CC=CC=C1)C(=C)C)OC)CC1=CC=CC=C1 | C41H41NO3
